US06500946B1
Production of 6-chloro-9-(2,5-di-O-acetyl-3-deoxy-β-D-erythro-pentofuranosyl)-9H-purine
32.7 g (97.2 mmols) of 2′,5′-di-O-acetyl-3′-deoxyinosine was suspended in 449 ml of methylene chloride in a 1-liter reactor, to which were added 30.1 ml (389 mmols) of dimethylformamide and 28.0 ml (389 mmols) of thionyl chloride, and reacted for about 7 hours while heating under reflux. The reaction mixture was cooled to 0° C., and then dropwise added to 500 ml of water that had been cooled at 0° C. to stop the reaction. The reaction mixture was separated into layers, and the organic layer was taken out, and washed with water, an aqueous saturated solution of sodium hydrogencarbonate and a saturated saline solution in that order. The solvent was evaporated, and 31.0 g of an oily product was obtained. This crude product was directly subjected to the next reaction.

reactant | 2′,5′-di-O-acetyl-3′-deoxyinosine | 97.2 mmols, 32.7 g | C(C)(=O)O[C@H]1[C@@H](O[C@@H](C1)COC(C)=O)N1C=NC=2C(O)=NC=NC12 | C14H16N4O6
reactant | dimethylformamide | 389 mmols, 30.1 ml | CN(C=O)C | C3H7NO
reactant | thionyl chloride | 389 mmols, 28.0 ml | S(=O)(Cl)Cl | Cl2OS
reactant | water | 500 ml | O | H2O
solvent | methylene chloride | 449 ml | C(Cl)Cl | CH2Cl2
product | 6-chloro-9-(2,5-di-O-acetyl-3-deoxy-β-D-erythro-pentofuranosyl)-9H-purine | 31.0 g | ClC1=C2N=CN(C2=NC=N1)[C@H]1[C@H](OC(C)=O)C[C@H](O1)COC(C)=O | C14H15ClN4O5
